US07365231B2
A mixture of 2,2-bis(4-(3-hydroxy-4-nitrophenoxy)phenyl)adamantane (3.00 g, 5.05 mmol), 10% Pd/C (0.06 g) and ethanol (60 mL) were heated to reflux. Then, 20 mL of hydrazine hydrate was added dropwise into the suspension solution over a period of 1 hour. After the mixture was refluexed for another 24 h. The reaction solution was then filtered to remove Pd/C. The crude product was recrystallized from ethanol to give 1.81 g (67.1%) of 2,2-bis(4-(4-amino-3-hydroxyphenoxy)phenyl)adamantane. mp>160° C. (decompose); IR (KBr): 3415, 3298, 2912 cm−1, MS (EI) m/z 534 (M+, 100); Anal. Calcd. for C34H34N2O4: C, 76.40; H, 6.36; N, 5.24. Found: C, 76.21; H, 6.45; N, 5.22.

reactant | 2,2-bis(4-(3-hydroxy-4-nitrophenoxy)phenyl)adamantane | 5.05 mmol, 3.00 g | OC=1C=C(OC2=CC=C(C=C2)C2(C3CC4CC(CC2C4)C3)C3=CC=C(C=C3)OC3=CC(=C(C=C3)[N+](=O)[O-])O)C=CC1[N+](=O)[O-] | C34H30N2O8
reactant | hydrazine hydrate | 20 mL | O.NN
catalyst | Pd/C | 0.06 g | [Pd] | Pd
solvent | ethanol | 60 mL | C(C)O | C2H6O
product | 2,2-bis(4-(4-amino-3-hydroxyphenoxy)phenyl)adamantane | 1.81 g, 67.1% | NC1=C(C=C(OC2=CC=C(C=C2)C2(C3CC4CC(CC2C4)C3)C3=CC=C(C=C3)OC3=CC(=C(C=C3)N)O)C=C1)O | C34H34N2O4
